US07737149B2
Tris(dibenzylideneacetone)dipalladium(0) (183 m,g, 0.20 mmol) followed by sodium tert-butoxide (538 mg, 5.60 mmol) was added to ethyl 5-bromothiophene-2-carboxylate (1.034 g, 4.40 mmol), 1-ethylpiperazine (0.51 ml, 4.00 mmol) and (rac)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (249 mg, 0.40 mmol) in toluene (20.00 ml) at 25° C. under nitrogen. The resulting suspension was stirred at 110° C. for 18 h. The cooled reaction mixture was diluted with methanol and purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford crude product. The residue was purified by silica column chromatography, eluting with a gradient of 0 to 3% 7M NH3/MeOH in DCM. Fractions containing desired product were evaporated to dryness to give impure orange oil. The impure material was further purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford ethyl 5-(4-ethylpiperazin-1-yl)thiophene-2-carboxylate (339 mg, 32%) as a yellow oil.

reactant | sodium tert-butoxide | 5.60 mmol, 538 mg | CC(C)([O-])C.[Na+]
reactant | ethyl 5-bromothiophene-2-carboxylate | 4.40 mmol, 1.034 g | BrC1=CC=C(S1)C(=O)OCC | C7H7BrO2S
reactant | 1-ethylpiperazine | 4.00 mmol, 0.51 ml | C(C)N1CCNCC1 | C6H14N2
reactant | (rac)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.40 mmol, 249 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 20.00 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.20 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 5-(4-ethylpiperazin-1-yl)thiophene-2-carboxylate | 339 mg, 32% | C(C)N1CCN(CC1)C1=CC=C(S1)C(=O)OCC | C13H20N2O2S
